US07115598B2
f) (3S)-1,3,6,7-Tetrahydro-3-(4-chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-phenyl-6-(phenylseleno)-1,4-diazepine-2,5-dione
Silver triflate (1.69 g, 6.6 mmol) was added to a stirred solution of (S)-α-(4-chlorophenyl)-α-[(R)-N-[1-(4-chlorophenyl)ethyl]-N-(cinnamoyl)amino]acetamide (1.5 g, 3.3 mmol), in acetonitrile (120 mL). To the resulting solution was successively added benzeneselenyl bromide (1.54 g, 6.53 mmol) and dimethylformamide (5.2 mL). After 6 h, the solvent was evaporated in vacuo. The residue was partitioned between ethyl acetate (100 mL) and 1N sodium hydrogenocarbonate (70 mL), dried (Na2SO4), and evaporated. Purification by column chromatography (AcOEt/hexanes, 1:3) afforded the title compound, which was recrystallized from Et2O to give colorless prisms (855 mg, 43%): 1H NMR (400 MHz, CDCl3) δ 1.68 (d, J=7.0 Hz, 3H, CH3), 4.29 (d, J=12.2 Hz, 1H, CH), 4.79 (d, J=12.2 Hz, 1H, CH), 5.28 (s, 1H, CH), 6.21–6.25 (m, 3H, ArH), 6.31 (q, J=7.0 Hz, 1H, CH), 6.71–6.76 (m, 4H, ArH), 6.93–7.11 (m, 6H, NH+5ArH), 7.34–7.40 (m, 4H, ArH), 7.50 (d, J=8.4 Hz, 2H, ArH). Mass spectrum (LCMS, ESI pos.): Calcd for C31H26Cl2N2O2Se: 608.0; found: 609.0 (M+H)+.

reactant | (S)-α-(4-chlorophenyl)-α-[(R)-N-[1-(4-chlorophenyl)ethyl]-N-(cinnamoyl)amino]acetamide | 3.3 mmol, 1.5 g | ClC1=CC=C(C=C1)[C@@H](C(=O)N)N(C(C=CC1=CC=CC=C1)=O)[C@H](C)C1=CC=C(C=C1)Cl | C25H22Cl2N2O2
reactant | benzeneselenyl bromide | 6.53 mmol, 1.54 g | C1=CC=C(C=C1)[Se]Br | C6H5BrSe
reactant | dimethylformamide | 5.2 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
catalyst | Silver triflate | 6.6 mmol, 1.69 g | [O-]S(=O)(=O)C(F)(F)F.[Ag+]
product | (3S)-1,3,6,7-Tetrahydro-3-(4-chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-phenyl-6-(phenylseleno)-1,4-diazepine-2,5-dione | ClC1=CC=C(C=C1)[C@H]1C(NC(C(C(N1[C@H](C)C1=CC=C(C=C1)Cl)=O)[Se]C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H26Cl2N2O2Se
